US07384969B2
1.1 Ethyl 1-(3-trifluoromethylbenzyl)-1H-indole-2-carboxylate
A suspension of 0.492 g (2.6 mmol) of ethyl 1H-indole-2-carboxylate, of 0.683 g (2.86 mmol) of 3-trifluoromethylbenzyl bromide and of 0.898 g (6.5 mmol) of potassium carbonate in 50 ml of dimethylformamide is stirred at 60° C. for 24 hours. The reaction mixture is cooled and is poured into a mixture of ice-cold water and of ethyl acetate. After settling, the organic phase is separated and is then washed with two times 50 ml of water and then with 50 ml of a saturated sodium chloride solution. The solution is dried over magnesium sulfate and filtered, and then the filtrate is concentrated under reduced pressure. 0.8 g of an oil is obtained, which oil is used as is in the following stage.

reactant | ethyl 1H-indole-2-carboxylate | 2.6 mmol, 0.492 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | 3-trifluoromethylbenzyl bromide | 2.86 mmol, 0.683 g | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
reactant | potassium carbonate | 6.5 mmol, 0.898 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Ethyl 1-(3-trifluoromethylbenzyl)-1H-indole-2-carboxylate | 0.8 g | FC(C=1C=C(CN2C(=CC3=CC=CC=C23)C(=O)OCC)C=CC1)(F)F | C19H16F3NO2
